US06228859B1
3-(3-Benzyloxy-4-methoxy-benzyl)-8-(1-benzyloxy-1-methyl-ethyl)-2-thioxanthine (26.05 g, 48 mmole) was heated under reflux in 1-propanol (700 ml) with Raney-nickel (29 g) (treated with 0.1% aqueous acetic acid) for 1.5 hours. The nickel was filtered off and the solvent evaporated in vacuo. The residue was dissolved in dichloromethane (300 ml), extracted with sodium carbonate solution and evaporated again to dryness. The residue was dissolved in methanol (150 ml), treated with charcoal, filtered, concentrated and crystallized to give 3-(3-benzyloxy-4-methoxy-benzyl)-8-(1-benzyloxy-1-methyl-ethyl)-hypoxanthine (15.81 g, 64.5%), mp 78-86° C. (containing methanol). A second crop gave 2.29 g (9.3%) of hypoxanthine.

reactant | 3-(3-Benzyloxy-4-methoxy-benzyl)-8-(1-benzyloxy-1-methyl-ethyl)-2-thioxanthine | 48 mmole, 26.05 g | C(C1=CC=CC=C1)OC=1C=C(CN2C(NC(C=3NC(=NC23)C(C)(C)OCC2=CC=CC=C2)=O)=S)C=CC1OC | C30H30N4O4S
reactant | 3-(3-benzyloxy-4-methoxy-benzyl)-8-(1-benzyloxy-1-methyl-ethyl)-hypoxanthine | 15.81 g | C(C1=CC=CC=C1)OC=1C=C(CN2C=NC(C=3NC(=NC23)C(C)(C)OCC2=CC=CC=C2)=O)C=CC1OC | C30H30N4O4
reactant | methanol | CO | CH4O
solvent | 1-propanol | 700 ml | C(CC)O | C3H8O
catalyst | Raney-nickel | 29 g | [Ni] | Ni
product | hypoxanthine | 2.29 g, 9.3% | N1C=NC=2N=CNC2C1=O | C5H4N4O
